US06008363
To a suspension of O-methyl-N-(2-chloro-5-thiazolylmethyl)-N'-nitroisourea (1.00 g, 4.00 mmol) in water (10 ml) was added 40% aqueous solution of methylamine (0.77 g; 9.92 mmol) dropwise. The mixture was stirred at room temperature for 14 hours and the resulting crystals were collected by filtration, washed with water (10 ml), and dried. As a result, 0.92 g (92.0% yield) of 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine was obtained.

reactant | O-methyl-N-(2-chloro-5-thiazolylmethyl)-N'-nitroisourea | 4.00 mmol, 1.00 g | COC(NCC1=CN=C(S1)Cl)=N[N+](=O)[O-] | C6H7ClN4O3S
reactant | methylamine | 9.92 mmol, 0.77 g | CN | CH5N
solvent | water | 10 ml | O | H2O
product | 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine | 0.92 g, 92.0% yield | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8ClN5O2S
